US06670372B2
Using the general method of example 1 Part D, N-{1-[2-(benzyloxy)ethyl]-2-butyl-1H-imidazo[4,5-c]quinolin-4-yl}-2,2,2-trichloroacetamide (3.3 g, 6.39 mmol) was hydrolyzed with sodium methoxide (5 mL of 25% in methanol). The resulting tan solid was purified by chromatography over silica gel (98/2 dichloromethane/methanol), recrystallized from methanol and dried under vacuum at 60° C. for 18 hours to provide 0.174 g of 1-[2-(benzyloxy)ethyl]-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 133-135° C.

reactant | N-{1-[2-(benzyloxy)ethyl]-2-butyl-1H-imidazo[4,5-c]quinolin-4-yl}-2,2,2-trichloroacetamide | 6.39 mmol, 3.3 g | C(C1=CC=CC=C1)OCCN1C(=NC=2C(=NC=3C=CC=CC3C21)NC(C(Cl)(Cl)Cl)=O)CCCC | C25H25Cl3N4O2
reactant | sodium methoxide | 5 mL | C[O-].[Na+]
product | 1-[2-(benzyloxy)ethyl]-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.174 g | C(C1=CC=CC=C1)OCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C23H26N4O
